US07332501B2
a) (6-Chloro-1H-indol-2-yl)-methanol
To a solution of 2.00 g (8.94 mmol) 6-chlorindole-2-carboxylic acid ethyl ester in 50 ml diethyl ether were added 0.475 g (12.5 mmol) lithium aluminum hydride at 0° C. The reaction mixture was heated at reflux for 45 min and quenched by consecutive addition of 10 ml water, 10 ml aqueous 2 M sodium hydroxide solution and 10 ml water at 0° C. The aqueous layer was extracted with tert-butyl methyl ether (3×100 ml). The combined organic layers were dried over sodium sulfate and concentrated in vacuo to give the crude title compound (1.64 g; 100%) as a white solid. MS m/e (%): 180 (M−H+, 100).

reactant | 6-chlorindole-2-carboxylic acid ethyl ester | 8.94 mmol, 2.00 g | C(C)OC(=O)C=1NC2=CC(=CC=C2C1)Cl | C11H10ClNO2
reactant | lithium aluminum hydride | 12.5 mmol, 0.475 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (6-Chloro-1H-indol-2-yl)-methanol | 1.64 g, 100% | ClC1=CC=C2C=C(NC2=C1)CO | C9H8ClNO
